US06777111B1
A mixture of 13 g of 2-adamantanone, 55 g of aniline, and 15 g of aniline hydrochloride was introduced to a flask with a water remover. The mixture was heated and refluxed at 200° C. (oil bath) under nitrogen atmosphere. Forty hours later, a KOH solution was added so that the pH was approximately 10, and the mixture was extracted with chloroform and washed with water. The mixture was then dried with sodium sulfate, evaporated, and purified with silica gel column chromatography, to obtain 5 g of dianilinoadamantane as a colorless amorphous material.

reactant | 2-adamantanone | 13 g | C12C(C3CC(CC(C1)C3)C2)=O | C10H14O
reactant | aniline | 55 g | NC1=CC=CC=C1 | C6H7N
reactant | aniline hydrochloride | 15 g | Cl.NC1=CC=CC=C1
reactant | KOH | [OH-].[K+]
solvent | water | O | H2O
product | dianilinoadamantane | 5 g | N(C1=CC=CC=C1)C1C2(CC3CC(CC1C3)C2)NC2=CC=CC=C2 | C22H26N2
